US07208524B2
To a stirred suspension of 3.01 g of lithium aluminum hydride in 100 mL of anhydrous diethyl ether was added dropwise a solution of 9.45 g of 2-benzyloxy-4-isopropyl-1-(2-nitro-vinyl)benzene in 10 mL of diethyl ether under ice-cooling with stirring during 10 minutes. After the mixture was stirred for 1 hour, 63.5 mL of 2 mol/L sodium hydroxide solution was added dropwise to the stirred reaction mixture under ice-cooling, and the mixture was stirred for 1 hour. To the mixture was added anhydrous sodium sulfate, and the mixture was stirred for 15 minutes. The insoluble material was filtered off through a diatomaceous earth, and 100 mL of water was added to the filtrate. The mixture was extracted with ethyl acetate, and the organic layer was washed successively with saturated aqueous sodium bicarbonate solution, and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 8.56 g of 2-(2-benzyloxy-4-isopropylphenyl)-ethylamine.

reactant | lithium aluminum hydride | 3.01 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-benzyloxy-4-isopropyl-1-(2-nitro-vinyl)benzene | 9.45 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(C)C)C=C[N+](=O)[O-] | C18H19NO3
reactant | sodium hydroxide | 2 mol/L, 63.5 mL | [OH-].[Na+]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 2-(2-benzyloxy-4-isopropylphenyl)-ethylamine | 8.56 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(C)C)CCN | C18H23NO
